US04218464
141 g. of 3-chloro-2-methylaniline (1 mol.) was added to a stirred mixture of 200 ml. of acetic acid and 102 g. (1 mol.) of acetic anhydride and heated to 95° C. for approximately one hour. The mixture was poured into water and filtered to give 3-chloro-2-methylacetanilide.

reactant | 3-chloro-2-methylaniline | 1 mol | ClC=1C(=C(N)C=CC1)C | C7H8ClN
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 1 mol | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 3-chloro-2-methylacetanilide | CC1=C(C=CC=C1Cl)NC(=O)C | C9H10ClNO
